US09024027B2
To a solution of (S)-4-(2-(2-(4-(N-(tert-butoxycarbonyl)methylsulfonamido)-1H-indol-1-yl)acetoxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide (420 mg, 0.545 mmol) in DCM (10 ml), 4M HCl in dioxane (1.363 ml, 5.45 mmol) was added, and the mixture was stirred at room temperature overnight. The solvent was evaporated and the resulting crude was purified by HPLC preparative (Method 3) recovering (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(4-(methylsulfonamido)-1H-indol-1-yl)acetoxy)ethyl)pyridine 1-oxide (180 mg, 0.268 mmol, 49% yield). MS/ESI+ 670.09 [MH]+; [αD]=−14.56, c=0.5 in DCM; 1H NMR (300 MHz, DMSO-d6) δ ppm 9.51 (s, 1H) 8.52 (s, 2H) 7.24 (d, 1H) 7.16 (d, 1H) 6.96-7.12 (m, 4H) 6.92 (dd, 1H) 7.06 (t, 1H) 6.76 (d, 1H) 6.02 (dd, 1H) 5.22 (d, 1H) 5.05 (d, 1H) 3.89 (d, 2H) 3.41 (dd, 1H) 3.21 (dd, 1H) 2.95 (s, 3H) 1.10-1.33 (m, 1H) 0.51-0.69 (m, 2H) 0.27-0.44 (m, 2H).

reactant | (S)-4-(2-(2-(4-(N-(tert-butoxycarbonyl)methylsulfonamido)-1H-indol-1-yl)acetoxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide | 0.545 mmol, 420 mg | C(C)(C)(C)OC(=O)N(S(=O)(=O)C)C1=C2C=CN(C2=CC=C1)CC(=O)O[C@@H](CC1=C(C=[N+](C=C1Cl)[O-])Cl)C1=CC(=C(C=C1)OC(F)F)OCC1CC1 | C34H35Cl2F2N3O9S
reactant | dioxane | 5.45 mmol, 1.363 ml | O1CCOCC1 | C4H8O2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | HCl | 4M | Cl | ClH
product | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(4-(methylsulfonamido)-1H-indol-1-yl)acetoxy)ethyl)pyridine 1-oxide | 0.268 mmol, 180 mg, 49% yield | ClC=1C=[N+](C=C(C1C[C@H](OC(CN1C=CC2=C(C=CC=C12)NS(=O)(=O)C)=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C29H27Cl2F2N3O7S
